US05859014
substituting 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 3-(3-chloropropyl)-1-(4-fluorophenyl)-5-methyl-2,4(1H,3H)-pyrimidinedione gave 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-1-(4-fluorophenyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 166°-168° C.; Anal.: Calcd. for C26H28F4N4O3HCl.(C4H10O)0.3 ; C, 56.34; H, 5.56; N, 9.66%; Found: C, 56.06; H, 5.76; N, 9.36%;

reactant | 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 3-(3-chloropropyl)-1-(4-fluorophenyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | ClCCCN1C(N(C=C(C1=O)C)C1=CC=C(C=C1)F)=O | C14H14ClFN2O2
product | 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-1-(4-fluorophenyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.FC(COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(N(C=C(C1=O)C)C1=CC=C(C=C1)F)=O)(F)F | InChI=1S/C26H28F4N4O3.ClH/c1-19-17-34(21-9-7-20(27)8-10-21)25(36)33(24(19)35)12-4-11-31-13-15-32(16-14-31)22-5-2-3-6-23(22)37-18-26(28,29)30;/h2-3,5-10,17H,4,11-16,18H2,1H3;1H
